US05071844
(2S)-(N-[2-(2-Bromophenylmethylthio)phenyl])carbamoyl-1-(4-methoxyphenylacetyl)pyrrolidine
A solution of 1,3-dicyclohexylcarbodiimide (DCC) (705 g) in dichloromethane (1400 ml) was added over 30 minutes to a stirred solution of 2-(2-bromophenylmethylthio)aniline (see Bull. Chem. Soc. Japan, 48, 2323 (1975)) (957 g) and (S)-1-(4-methoxyphenylacetyl)proline (see Preparation 24) (900 g) in dichloromethane (5.5 L). The mixture was stirred at 25°-35° C. for one hour and filtered. The filtrate was evaporated under reduced pressure to give the desired product as a brown gum which was used directly in Preparation 22.

reactant | 1,3-dicyclohexylcarbodiimide | 705 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(2-bromophenylmethylthio)aniline | 957 g | BrC1=C(C=CC=C1)CSC1=C(N)C=CC=C1 | C13H12BrNS
reactant | (S)-1-(4-methoxyphenylacetyl)proline | 900 g | COC1=CC=C(C=C1)CC(=O)N1[C@H](C(=O)O)CCC1 | C14H17NO4
solvent | dichloromethane | 1400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5.5 L | ClCCl | CH2Cl2
product | (2S)-(N-[2-(2-Bromophenylmethylthio)phenyl])carbamoyl-1-(4-methoxyphenylacetyl)pyrrolidine | BrC1=C(C=CC=C1)CSC1=C(C=CC=C1)NC(=O)[C@H]1N(CCC1)C(CC1=CC=C(C=C1)OC)=O | C27H27BrN2O3S
